* C:\users\demski\Mis Documentos\Documentos\UTN\Electronica Aplicada 1\Proyectos\EmisorComun.asc
R1 N001 N004 220k
R2 N004 0 39k
Q1 N002 N004 N005 0 BC547B
R3 N001 N002 6.8k
R4 N005 0 1.8k
V1 Vg 0 SINE(0 50m 1k 0 0 0 20)
V2 N001 0 12
R5 0 Vl 100k
C1 Vl N002 100µ
C2 N004 N003 100µ
R6 N003 Vg 7.5k
C3 N005 0 100µ
.model NPN NPN
.model PNP PNP
.lib C:\Program Files (x86)\LTC\LTspiceIV\lib\cmp\standard.bjt
.tran 0 20m 0 0.01m
.backanno
.end
